US06849624B2
e) 6-Thiomorpholin-4-yl-4-o-tolyl-pyridin-3-ylamine
A suspension of 3.45 g (9.3 mmol) 2,2-dimethyl-N-(6-thiomorpholin-4-yl-4-o-tolyl-pyridin-3-yl)-propionamide in 95 ml 3 N hydrochloric acid solution was heated under argon at 110° C. overnight. The reaction mixture was cooled to room temperature, washed with two 100-ml portions of diethyl ether and filtered over celite. The filtrate was diluted with 20 ml water and was adjusted to pH 11 by addition of 28% sodium hydroxide solution under ice cooling. The product was extracted with three 100-ml portions of dichloromethane. The combined organic layers were washed with 50 ml brine, dried (sodium sulfate) and evaporated to give 2.53 g (95%) of the title compound as a brown solid.

reactant | 2,2-dimethyl-N-(6-thiomorpholin-4-yl-4-o-tolyl-pyridin-3-yl)-propionamide | 9.3 mmol, 3.45 g | CC(C(=O)NC=1C=NC(=CC1C1=C(C=CC=C1)C)N1CCSCC1)(C)C | C21H27N3OS
solvent | hydrochloric acid | 3 N, 95 ml | Cl | ClH
product | 6-Thiomorpholin-4-yl-4-o-tolyl-pyridin-3-ylamine | 2.53 g, 95% | N1(CCSCC1)C1=CC(=C(C=N1)N)C1=C(C=CC=C1)C | C16H19N3S
